US09102591B2
Ethyl 3-(1-methyl-1H-pyrazol-4-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate
Ethyl 3-(1-methyl-1H-pyrazol-4-yl)-3-(tetrahydro-2H-pyran-4-yl)acrylate (205 mg, 0.78 mmol) was dissolved in methanol (10 ml) and argon was bubbled through the solution for 5 minutes. To the solution was added 10% Pd/C (41 mg) and the flask was fitted with a balloon containing hydrogen. The reaction was stirred at room temperature for 16 hours. The catalyst was removed by filtration through a plug of celite. And solution was concentrated in vacuo. The crude product was used directly in the next reaction.

reactant | Ethyl 3-(1-methyl-1H-pyrazol-4-yl)-3-(tetrahydro-2H-pyran-4-yl)acrylate | 0.78 mmol, 205 mg | CN1N=CC(=C1)C(=CC(=O)OCC)C1CCOCC1 | C14H20N2O3
solvent | methanol | 10 ml | CO | CH4O
product | Ethyl 3-(1-methyl-1H-pyrazol-4-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate | CN1N=CC(=C1)C(CC(=O)OCC)C1CCOCC1 | C14H22N2O3
